US05122615
Preparation of 2-Chloro-5-(p-chlorophenyl)pyrrole-3-carboxamide
Into a mixture of 3-(p-chlorobenzoyl)-2-cyanopropionamide (1.0 g, 0.0042 mol), ether and chloro-form is bubbled dry hydrogen chloride for about 10 minutes. TLC shows no remaining 3-(p-chlorobenzoyl)-2-cyanopropionamide. Solvent is removed in vacuo and the residue is distributed between ethyl acetate and water. The organic phase is separated, washed with water and brine and dried over magnesium sulfate. Solvent is removed and the resulting solid is triturated with ether and collected to give the title compound as a light brown solid (0.50 g, 46%, mp >200° C.). Identified by IR and NMR spectral analyses.

reactant | 3-(p-chlorobenzoyl)-2-cyanopropionamide | 0.0042 mol, 1.0 g | ClC1=CC=C(C(=O)CC(C(=O)N)C#N)C=C1 | C11H9ClN2O2
reactant | ether | CCOCC | C4H10O
reactant | chloro-form | C(Cl)(Cl)Cl | CHCl3
product | 2-Chloro-5-(p-chlorophenyl)pyrrole-3-carboxamide | 0.50 g, 46% | ClC=1NC(=CC1C(=O)N)C1=CC=C(C=C1)Cl | C11H8Cl2N2O
